US04632831
100 Pounds of polypropylene are heated to about 300° F. 15 Pounds of 2-methyl-4-pentanol acetate prepared according to Example IV (bulked fractions 4-6) are added to the liquified polypropylene. The procedure is carried out in the apparatus shown in FIGS. 9 and 10. After mixing for about 8 minutes, the valve "V" is opened to allow the exit of polypropylene mixture which has been treated with the phenylpentanol acetate, whereby solid pellets having pronounced aromas described as "green, vegetative, styrallyl acetate-like" are formed on the conveyor. The pellets thus obtained are then admixed with about 20 times their weight of unscented polypropylene and untreated polypropylene and the mixture is heated and molded into "spaghetti" tows. The "spaghetti" tows are cut into small cylinders approximately 0.1 inches in length×0.2 inches in diameter. The cylinders have strong and pleasant aromas as described, supra.

reactant | polypropylene | C(C(C)[*:2])[*:1]
reactant | 2-methyl-4-pentanol acetate | C(C)(=O)OC(CC(C)C)C | C8H16O2
reactant | phenylpentanol acetate | C(C)(=O)OC(CCCC)C1=CC=CC=C1 | C13H18O2
product | styrallyl acetate | CC(C1=CC=CC=C1)OC(=O)C | C10H12O2
